US04680409
(B) 1-[3,4-bis(Hydroxy)benzoyl]-2-[(t-butyloxy)-carbonyl]hydrazine
1-[3,4-bis(Acetyloxy)benzoyl]-2-[(t-butyloxy)carbonyl]hydrazine (2.6 g) was dissolved in 50 ml of methanol and 5 ml of water. At 0° C., ammonia (gas) was bubbled into the solution for 10 minutes. After standing overnight in a refrigerator, the solution was evaporated, and to the remaining oil, 10 ml of dichloromethane was added. This yielded 1.5 g of the title compound, melting point 148° C.

reactant | 1-[3,4-bis(Acetyloxy)benzoyl]-2-[(t-butyloxy)carbonyl]hydrazine | 2.6 g | C(C)(=O)OC=1C=C(C(=O)NNC(=O)OC(C)(C)C)C=CC1OC(C)=O | C16H20N2O7
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 1-[3,4-bis(Hydroxy)benzoyl]-2-[(t-butyloxy)-carbonyl]hydrazine | OC=1C=C(C(=O)NNC(=O)OC(C)(C)C)C=CC1O | C12H16N2O5
